US03994965
A. guanylureidoacetic Acid
The pH of a mixture of 29.4 g (0.2 mole) of N-guanyl-N'-nitrourea and 7.5 g. (0.1 mole) of glycine in 200 ml. of water is adjusted to 6.0 and the resulting solution heated to reflux. During the 2 hrs. of reflux (95°-97° C.) the pH of the reaction is maintained between 6 and 7 by the addition of 10% hydrochloric acid. The reaction, after 2 hours reflux, is cooled to 10° C. and the pH adjusted to 6.9. The precipitate is filtered, washed with 500 ml. of water and dried to give 14 g. of the desired intermediate, m.p. 202° C. (dec.).

reactant | N-guanyl-N'-nitrourea | 0.2 mole, 29.4 g | C(N)(=N)NC(=O)N[N+](=O)[O-] | C2H5N5O3
reactant | glycine | 0.1 mole | NCC(=O)O | C2H5NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | guanylureidoacetic Acid | C(N)(=N)NC(NCC(=O)O)=O | C4H8N4O3
